US08314112B2
Step D: 4-Chloro-6-(6-methyl-pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 6-bromo-4-chloro-1H-pyrrolo[2,3-b]pyridine (1 eq, 11.0 mmol, 2.76 g) in MeCN (20 ml), 2-methyl-6-tributylstannanyl-pyridine (see Chemistry, A European Journal (2005), 11 (23), 6818-6828) (1 eq, 11.0 mmol, 4.19 g) and Pd(PPh3)4 (0.01 eq, 0.110 mmol, 131 mg) are added. The resulting mixture is heated using microwave radiation for 15 min at 160° C. The mixture is diluted with diethyl ether and extracted with aqueous HCl solution (2 M). The aqueous layer is basified with aqueous NaOH solution (4 M) and extracted with DCM. The organic layer is dried with MgSO4, filtered, and concentrated. The residue is taken up in hexane and stirred at r.t. for 1 h. The suspension is filtered and dried giving the title compound; [M+H]+=244.

reactant | 6-bromo-4-chloro-1H-pyrrolo[2,3-b]pyridine | 11.0 mmol, 2.76 g, 1 eq | BrC1=CC(=C2C(=N1)NC=C2)Cl | C7H4BrClN2
reactant | MeCN | 20 ml | CC#N | C2H3N
solvent | 2-methyl-6-tributylstannanyl-pyridine | CC1=NC(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd(PPh3)4 | 0.110 mmol, 131 mg, 0.01 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-6-(6-methyl-pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC(=C1)C1=NC(=CC=C1)C)NC=C2 | C13H10ClN3
